Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8][H:9]>>[C:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8].[H:9],3.58393715254
[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13].[O:1]>>[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13],-7.68980216367
[H:1][O:2][C:3]([H:4])([H:5])[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])=[C:12]([H:13])[H:14]>>[H:1][O:2]/[C:3]([H:4])=[C:6](\[C:7]([H:8])[H:9])[C:10]([H:11])=[C:12]([H:13])[H:14].[H:5],4.2121549323
[C:1][C:2]([H:3])([H:4])/[C:5]([H:6])=[C:7](\[H:8])[O:9][C:10].[H:11]>>[C:1][C:2]([H:3])([H:4])/[C:5]([H:6])=[C:7](\[H:8])[O:9][C:10][H:11],-3.4095545431700005
[C:1]/[C:2]([H:3])=[C:4](\[O:5][O:6])[C:7]([H:8])([H:9])[H:10]>>[C:1].[C:2]([H:3])=[C:4]([O:5][O:6])[C:7]([H:8])([H:9])[H:10],5.79905880026
[H:1][O:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:6]([H:7])=[C:8]([H:9])[H:10].[H:1][O:2][C:3](=[C:4][H:5])[C:11]([H:12])([H:13])[H:14],5.26123541158
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9](=[C:10]([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:9](\[C:10]([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:8],4.6904710767
[C:6]([H:7])([H:8])[H:9].[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-4.60245433703
[H:1][C:2]#[C:3][C:4]([H:5])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14].[H:6]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14],-3.90872400235
[C:6]([H:7])([H:8])[H:9].[O:1]=[C:2]([C:3]#[C:4][H:5])[C:10]([H:11])([H:12])[H:13]>>[O:1]=[C:2]([C:3](=[C:4][H:5])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-1.50414630939
[H:1][O:2][C:3](=[C:4]=[C:5]([H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:3](#[C:4][C:5]([H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2],4.88170387053
[H:1][C:2]([H:3])([H:4])[O:5][C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]([H:3])[H:4].[O:5]=[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],0.259523242521
[C:1]#[C:2][C:3]([H:4])([H:5])[H:6].[C:7]([H:8])([O:9][H:10])[O:11][H:12]>>[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([O:9][H:10])[O:11][H:12],-2.68642549723
[O:1]=[C:2]([H:3])[C:4]([O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[H:3].[O:1]=[C:2]=[C:4]([O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12],2.89041969855
[H:1][C:2](=[C:3]([H:4])[H:5])[C:7]([H:8])([H:9])[O:10][C:11][C:12]([H:13])([H:14])[H:15].[H:6]>>[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][C:11][C:12]([H:13])([H:14])[H:15],-1.9415052922
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[O:7][H:8]>>[H:1][O:2][C:3]([H:4])[C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-2.95193509331
[O:1]=[C:2]=[C:3]([H:4])[O:5][C:6]([H:7])[C:8]([H:9])([H:10])[H:11]>>[C:2]=[C:3]([H:4])[O:5][C:6]([H:7])[C:8]([H:9])([H:10])[H:11].[O:1],7.625820151339999
[C:3](=[O:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11].[O:1]=[C:2]>>[O:1][C:2](=[C:3]=[O:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11],-0.531686733221
[H:1][C:2]1=[C:3]([C:4]([H:5])([H:6])[H:7])[O:8][C:9][C:10]1([H:11])[H:12]>>[H:1]/[C:2](=[C:3]\[C:4]([H:5])([H:6])[H:7])[C:10]([C:9]=[O:8])([H:11])[H:12],1.26787304027
[O:1][O:2][C:3]([H:4])([H:5])/[C:6]=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:9]([H:10])([H:11])[H:12].[O:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7][H:8],1.52165018787
[O:1][C@:2]([H:3])([O:4][H:5])[C:6]([H:7])([H:8])[C:9]#[C:10][H:11]>>[C:6]([H:7])([H:8])[C:9]#[C:10][H:11].[O:1]=[C:2]([H:3])[O:4][H:5],-0.465952967619
[C:9]([H:10])([H:11])[H:12].[H:1][O:2][C:3]([H:4])([H:5])[C@@:6]([H:7])([O:8])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2][C:3]([H:4])([H:5])[C@@:6]([H:7])([O:8][C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-3.54965796775
[C:2]([H:3])([O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[O:1]>>[O:1][C@@:2]([H:3])([O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-4.21568139435
[O:1]=[C:2]([C:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:14].[O:1]=[C:2]([C:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13],4.577400208949999
[H:10].[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])=[C:8]=[O:9]>>[H:1][C:2]=[C:3]([H:4])[O:5]/[C:6]([H:7])=[C:8]/[O:9][H:10],-1.37647960187
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:10].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7](=[C:8][H:9])[C:11]([H:12])([H:13])[H:14],5.0125082379500006
[H:1][C:2]1=[C:3]([H:4])[O:5][C:6][O:7][C:8]1>>[H:1]/[C:2](=[C:3](/[H:4])[O:5][C:6])[C:8]=[O:7],0.614443706691
